US05593993
1-[(2-amino-5-bromopyridyl)thiocarbamoyl]imidazole
A solution of 1,1'-thiocarbonyldiimidazole (17.8 G, 0.1 m) and 2-amino-5-bromopyridine (17.3 g, 0.1 m) in acetonitrile (150 mL) was stirred at room temperature for 2 hours. To this suspension was added the material described below.

reactant | 1,1'-thiocarbonyldiimidazole | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 2-amino-5-bromopyridine | 17.3 g | NC1=NC=C(C=C1)Br | C5H5BrN2
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | 1-[(2-amino-5-bromopyridyl)thiocarbamoyl]imidazole | NC1=NC=C(C=C1NC(=S)N1C=NC=C1)Br | C9H8BrN5S
